US06310095B1
Methyl 4-(prop-2-enyl)-2-(2-methylphenyl)benzoate
Methyl 4-iodo-2-(2-methylphenyl)benzoate (10.0 g, 28.4 mmol), allyltributyl tin (11.3 g, 34.1 mmol), and dichlorobis(triphenylphosphine)palladium (II) (1.0 g, 1.42 mmol) were combined in 50 mL toluene and 20 mL NMP and heated at 125° C. for 18 hours. The reaction was diluted with EtOAc, washed with water and brine, dried over Na2SO4, and chromatographed (5% EtOAc in hexanes) to provide the title compound in 74 % yield. MS m/e 284 (M+NH4)+.

reactant | Methyl 4-iodo-2-(2-methylphenyl)benzoate | 28.4 mmol, 10.0 g | IC1=CC(=C(C(=O)OC)C=C1)C1=C(C=CC=C1)C | C15H13IO2
reactant | allyltributyl tin | 34.1 mmol, 11.3 g | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | NMP | 20 mL | CN1CCCC1=O | C5H9NO
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium | 1.42 mmol, 1.0 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 4-(prop-2-enyl)-2-(2-methylphenyl)benzoate | 74 % yield | C(C=C)C1=CC(=C(C(=O)OC)C=C1)C1=C(C=CC=C1)C | C18H18O2
